US06800654B2
{[6-(3-Pentyl-1-[2-(trifluoromethyl)benzyl]-1H-indol-2-yl)-1-bromo-2-naphthyl]oxy}acetonitrile
The title compound was prepared as a solid (0.053 g, 14%) from {[1-bromo-6-(3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile using 2-trifluoromethyl benzyl bromide and the procedure from step 4 of Example 2; 1H NMR (DMSO-d6) δ 0.72 (t, J=7.0 Hz, 3H), 1.11-1.22 (m, 4H), 1.54-1.62 (m, 2H), 2.71 (t, J=7.4 Hz, 2H), 5.42 (s, 2H), 5.48 (s, 2H), 6.34 (d, J=7.9 Hz, 1H), 7.11-7.20 (m, 2H), 7.28 (d, J=7.8 Hz, 1H), 7.37 (t, J=7.8 Hz, 1H), 7.45 (t, J=7.8 Hz, 1H), 7.57 (dd, J=1.7, 8.9 Hz, 1H), 7.63-7.68 (m, 2H), 7.69 (d, J=7.2 Hz, 1H), 7.95 (d, J=1.2 Hz, 1H), 8.03 (d, J=9.2 Hz, 1H), 8.12 (d, J=8.7 Hz, 1H).

reactant | {[1-bromo-6-(3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile | BrC1=C(C=CC2=CC(=CC=C12)C=1NC2=CC=CC=C2C1CCCCC)OCC#N | C25H23BrN2O
reactant | 2-trifluoromethyl benzyl bromide | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
product | {[6-(3-Pentyl-1-[2-(trifluoromethyl)benzyl]-1H-indol-2-yl)-1-bromo-2-naphthyl]oxy}acetonitrile | C(CCCC)C1=C(N(C2=CC=CC=C12)CC1=C(C=CC=C1)C(F)(F)F)C=1C=C2C=CC(=C(C2=CC1)Br)OCC#N | C33H28BrF3N2O
